US07446222B2
a) 2′-Bromo-5-butyrylamino-biphenyl-3-carboxylic acid methyl ester
Butyryl chloride (55 mg, 0.52 mmol) was added to a solution of 5-amino-2′-bromo-biphenyl-3-carboxylic acid methyl ester (153 mg, 0.5 mmol) and triethylamine (76 mg, 0.75 mmol) in dichloromethane (5 ml) and the mixture left at room temperature for 30 minutes. The resulting solution was diluted with diethyl ether, washed with 1M hydrochloric acid and saturated sodium bicarbonate, dried (MgSO4) and evaporated to dryness to yield the title compound as a light yellow gum. (161 mg, 88%).

reactant | Butyryl chloride | 0.52 mmol, 55 mg | C(CCC)(=O)Cl | C4H7ClO
reactant | 5-amino-2′-bromo-biphenyl-3-carboxylic acid methyl ester | 0.5 mmol, 153 mg | COC(=O)C=1C=C(C=C(C1)N)C1=C(C=CC=C1)Br | C14H12BrNO2
reactant | triethylamine | 0.75 mmol, 76 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2′-Bromo-5-butyrylamino-biphenyl-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C=C(C1)NC(CCC)=O)C1=C(C=CC=C1)Br | C18H18BrNO3
